* Frozen netlist snapshot for record 20260801-073725-a7fd16a
* source     : sim/amp-loop-stability/testbench/tb_loop_stability.spice
* sha256     : 482c24cbe912d08840c7ec28449d7125f35634a5e2fb0b6ece5fe2c9333b9eb0
* This is a verbatim copy taken at record time. Do not edit.
* amp-loop-stability -- loop-gain / stability-margin sim
*
* Issue #10 created this bench; issue #42 re-ran it against the
* telescopic-cascode amp and added a second, strictly-additional stability
* check (see NYQUIST CROSSING below). #10's own criterion is retained
* unchanged and still gated at >= 45 degrees.
*
* Netlist FRAGMENT for sim/harness (sim/README.md format). The harness
* supplies .include of the gf180mcu models, the corner .lib sections,
* .temp, the .control block and .end. Parameters available: vdd_val,
* vdd_nom, temp_c.
*
* Content below is design/netlist/bandgap_core.spice and
* design/netlist/bandgap_startup.spice, stripped of xschem comment lines
* and re-wrapped as .subckt/.ends, followed by this experiment's own
* stimulus. bandgap_amp is NOT defined here: it comes from the DUT netlist
* the manifest names (sim/dut/bandgap_amp.spice, generated from
* design/netlist/bandgap_amp.spice), which is what lets this same bench be
* re-run unedited against #10's amp with
*   --dut sim/dut/frozen/bandgap_amp-20260801-issue10.spice
* The record's Netlist provenance field then names the exact amp measured,
* by path and sha256 -- see sim/dut/README.md.
*
* TESTBENCH CHANGED IN #42 -- NOT BYTE-COMPARABLE WITH #10's RECORDS.
* #10 minted its records against a pre-#11 copy of bandgap_core (7 pins,
* no `casc` port) with NO bandgap_startup instance, seeding the intended
* operating point with .ic. Two things forced a change here:
*   1. `.ic` is not honoured by ngspice's .op/.ac DC solve (only by
*      transient), so #10's seed was doing nothing at all -- the DC solver
*      simply happened to land on the intended solution for that amp. It
*      does not for every amp, and a testbench whose result depends on
*      which of two physical DC solutions the solver picks is not evidence.
*   2. bandgap_top now instantiates bandgap_startup (#11) and the 8-pin
*      core, so the #10 fragment no longer described the shipping block.
* Instantiating bandgap_startup removes the degenerate solution physically
* (the kick devices hold `fb`/`casc` down until `ibias` is real), so the
* operating point this bench linearises around is the one the block
* actually has. The `.nodeset` below is a solver hint only; the answer no
* longer depends on it.
*
* For a like-for-like comparison, the paired record in this experiment's
* records/ directory was minted from this same testbench with
* --dut sim/dut/frozen/bandgap_amp-20260801-issue10.spice, i.e. #10's 5T
* OTA measured on #42's bench.
*
* METHOD -- single-injection loop gain. The servo loop closes through
* exactly one wire in this topology (the amp's "out" pin directly drives
* the core's "fb" net, the four mirror gates -- see
* design/bandgap_operating_point.md Sec 1). Let B = fb_gates (feeds the
* forward path: core -> amp) and A = amp_out (the forward path's own
* result; in the closed loop A=B). Break the wire and insert an ideal AC
* test source: B = A + vt (vt=1<0, DC=0, so the DC operating point is
* identical to the closed loop). Measuring x = V(fb_gates)/vt gives
* T = 1 - 1/x.
*
* WHAT THAT T IS AND IS NOT (corrected in #42). #10's header claimed this
* single injection is EXACT for a one-wire break. It is not: writing
* A = G(B) treats the forward path's output as an ideal voltage source, so
* the result is the true return ratio only while the forward path's output
* impedance at `out` is small against the load impedance the core's mirror
* gates present at `fb`. At DC and through the ratified band that holds.
* At high frequency both become capacitive and comparable, and the
* measured T tends to the pure capacitive-divider ratio -C(fb)/C(out) --
* which is exactly the frequency-independent high-frequency "plateau"
* #10's header attributed to a Cgd feedthrough path. It is a
* measurement artifact of voltage-only injection, not a gain path.
* Middlebrook/Tian dual (voltage + current) injection is what removes it;
* that is deliberately NOT done here, because changing the measurement
* would break comparability with #10's records, and because the plateau
* sits far above the ratified band and is cross-checked below.
*
* CRITICAL POINT, NOT THE TEXTBOOK -180 DEGREES: the closed-loop pole
* condition here is 1-T=0 (T=+1 danger), not the classic op-amp 1+T=0
* form, so the Nyquist danger point for THIS T is magnitude 1 AND phase 0
* (mod 360 degrees).
*
* STABILITY CRITERION #1 (#10's, unchanged -- this design's own choice,
* not a ratified spec line; see design/bandgap_error_budget.md Sec 4):
* phase margin, defined as the angular distance of T's phase (evaluated at
* the frequency of GLOBAL MINIMUM |T(f)| over 0.1 Hz - 2 GHz) from 0
* degrees (mod 360), must stay >= 45 degrees at every PVT corner.
*
* NYQUIST CROSSING -- STABILITY CRITERION #2 (added in #42, strictly
* stronger, nothing relaxed). Criterion #1 inspects the phase at ONE
* frequency: the global minimum of |T|. That is blind to an encirclement
* of the +1 critical point that happens somewhere else on the locus, and
* #42's higher-gain amp makes that failure mode reachable: an intermediate
* revision of this amp measured pm_deg = 179.8 degrees ("pass") at every
* corner while its Nyquist locus crossed the POSITIVE REAL AXIS at
* |T| = +33 dB -- i.e. it enclosed (+1,0) -- and its startup transient
* oscillated with volts of ripple. The added measurement scans the whole
* sweep for crossings of the positive real axis (imag(T) changing sign
* with real(T) > 0) and reports the largest |T| in dB at any such
* crossing, as `gm_crit_db`. For 1-T=0 the locus must cross to the LEFT of
* +1, so gm_crit_db must be < 0 dB; -999 dB is the sentinel for "no
* crossing anywhere in the sweep" (#10's amp, and any loop whose phase
* never reaches 0 mod 360). This is the classical gain margin, expressed
* for this topology's own critical point.
*
* The AC verdict is cross-checked physically by sim/startup/ (a full-PVT
* transient from a real vdd ramp): an encircling loop shows up there as a
* settled-value/ringing failure, and did, for the intermediate revision
* above.
*

.subckt bandgap_core vdd sns1 sns2 vss fb vref ibias casc


XM1 d1 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 sns1 casc d1 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 vss vss sns1 pnp_05p00x05p00 m=1
XM2 d2 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 sns2 casc d2 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 e2 sns2 vss ppolyf_u r_width=2u r_length=18u m=1
XQ2 vss vss e2 pnp_10p00x10p00 m=1
XM3 d3 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 vref casc d3 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 e3 vref vss ppolyf_u r_width=2u r_length=280u m=1
XQ3 vss vss e3 pnp_05p00x05p00 m=1
XM4 d4 fb vdd vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 ibias casc d4 vdd pfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 ibias ibias vss vss nfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB casc casc vdd vdd pfet_03v3 L=12u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB casc ibias vss vss nfet_03v3 L=2u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.subckt bandgap_startup vdd vss fb casc ibias


XMSENSE det ibias vss vss nfet_03v3 L=2u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRPU det vdd vss ppolyf_u_1k r_width=2u r_length=4000u m=1
XMKFB fb det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMKCASC casc det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

vsup vdd 0 dc {vdd_val}
Xcore vdd sns1 sns2 0 fb_gates vref ibias casc bandgap_core
Xamp sns2 sns1 0 amp_out vdd ibias bandgap_amp
Xstart vdd 0 fb_gates casc ibias bandgap_startup
vt fb_gates amp_out AC 1 0

.nodeset v(fb_gates)=2.27 v(amp_out)=2.27 v(sns1)=0.72 v(sns2)=0.72
+ v(vref)=1.23 v(ibias)=0.75 v(casc)=1.75

* ---------------------------------------------------------------
* DUT netlist included by this testbench (schematic)
* source     : sim/dut/bandgap_amp.spice
* sha256     : 581ebf5a454bee49d412102bf4a53823edd911ceec357532a4d911321850891f
* ---------------------------------------------------------------

* DUT netlist fragment -- GENERATED, do not edit by hand.
*
* source     : design/netlist/bandgap_amp.spice
* sha256     : bb2e9bed5f9c793e6e75da7771664497366e2086b49d6ec01ce6e112c8176909
* regenerate : python3 sim/tools/mk_dut.py design/netlist/bandgap_amp.spice <this file>
*
* Subcircuits defined here: bandgap_amp
*
* Included by the corner runner ahead of each testbench (tb.json's
* "dut" key, or --dut). Holds subcircuit definitions only: no .end,
* .control, .temp or .lib -- the harness owns those per PVT point.

** sch_path: /Users/rwalters/GitHub/gf180-bandgap/.loom/worktrees/issue-42/design/bandgap_amp.sch
.subckt bandgap_amp in_p in_n vss out vdd tail_bias

*.iopin vdd
*.iopin vss
*.iopin in_p
*.iopin in_n
*.iopin out
*.iopin tail_bias
XM3 a3 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 a4 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 nd1 pbias a3 vdd pfet_03v3 L=16u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 out pbias a4 vdd pfet_03v3 L=16u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 nd1 ncasc n1 vss nfet_03v3 L=16u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 out ncasc n2 vss nfet_03v3 L=16u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 n1 in_p tail vss nfet_03v3 L=4u W=200u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 n2 in_n tail vss nfet_03v3 L=4u W=200u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 tail tail_bias vss vss nfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 pbias tail_bias vss vss nfet_03v3 L=16u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP1 pbias pbias vdd vdd pfet_03v3 L=50u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMB1 ncasc pbias vdd vdd pfet_03v3 L=50u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD1 ncasc ncasc nb1 vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD2 nb1 nb1 vss vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC vdd out cap_mim_2f0_m4m5_noshield c_width=60u c_length=60u m=1
.ends
